US05998433
a) Synthesis of N-(3-furylmethyl)-6-phenylhexylamine
A solution of 9.138 g (29.73 mmol) of N-(6-phenylhexyl)phthalimide and 2.16 ml (44.6 mmol) of hydrazine monohydrate in 100 ml of ethanol was refluxed for 1 hour. After cooling to room temperature, the reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude 6-phenylhexylamine was dissolved in 100 ml of methanol; 2.86 g (29.7 mmol) of 3-furaldehyde was added, followed by stirring at room temperature for 0.5 hours, after which 2.25 g (59.5 mmol) of sodium borohydride was added under ice-cooling, followed by stirring at room temperature for 1 hour. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The crude product was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 to ethyl acetate) to yield the desired product.

reactant | N-(6-phenylhexyl)phthalimide | 29.73 mmol, 9.138 g | C1(=CC=CC=C1)CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C20H21NO2
reactant | hydrazine monohydrate | 44.6 mmol, 2.16 ml | O.NN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-furaldehyde | 29.7 mmol, 2.86 g | O1C=C(C=C1)C=O | C5H4O2
reactant | sodium borohydride | 59.5 mmol, 2.25 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(3-furylmethyl)-6-phenylhexylamine | O1C=C(C=C1)CNCCCCCCC1=CC=CC=C1 | C17H23NO
